US07713982B2
b) 1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
3-Pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (0.20 g, 0.76 mmol), potassium carbonate (0.4 g, 2.9 mmol) and methyl iodide (0.5 ml, 4.9 mmol) were stirred and heated at 50° C. in DMF (5 ml) for 3 h. The solution was allowed to cool and separated between ethyl acetate and brine. The organics were isolated, dried (MgSO4) and concentrated to provide the title compound (0.21 g, 100%). m/z 277[MH+]

reactant | 3-Pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.76 mmol, 0.20 g | C(CCCC)N1C(NC(C=2N(C=NC12)CC=C)=O)=O | C13H18N4O2
reactant | potassium carbonate | 2.9 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.9 mmol, 0.5 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.21 g, 100% | CN1C(N(C=2N=CN(C2C1=O)CC=C)CCCCC)=O | C14H20N4O2
